US08754089B2
To a mixture of 2-(1-(3-(2-(methylthio)phenyl)-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione (0.4278 g, 0.969 mmol) in THF (7.27 mL) and water (2.422 mL) was added oxone (1.489 g, 2.422 mmol) and the mixture was stirred at rt. After 24 h, LC-MS (ESI) and HPLC showed that the reaction was complete and no reactant remained. After 26 h, to the mixture was added water (50 mL) and the resulting precipitate was filtered and washed with water (50 mL) to give 2-(1-(3-(2-(methylsulfonyl)phenyl)-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione as a white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.99 (1 H, ddd, J=7.0, 1.6, 0.8 Hz), 8.01-8.11 (2 H, m), 7.69-7.86 (5 H, m), 7.56 (1 H, td, J=7.8, 1.3 Hz), 7.46 (1 H, td, J=6.9, 1.4 Hz), 7.29 (1 H, td, J=7.5, 1.4 Hz), 7.09 (1 H, dd, J=7.6, 1.2 Hz), 5.37-5.46 (1 H, m), 3.03 (3 H, s), 1.60 (3 H, d, J=7.0 Hz); Mass Spectrum (ESI) a major peak of m/e=474.1 (M+1).

reactant | 2-(1-(3-(2-(methylthio)phenyl)-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione | 0.969 mmol, 0.4278 g | CSC1=C(C=CC=C1)C1=C(N=C2N(C1=O)C=CC=C2)C(C)N2C(C1=CC=CC=C1C2=O)=O | C25H19N3O3S
reactant | oxone | 2.422 mmol, 1.489 g | OOS(=O)[O-].[K+]
reactant | THF | 7.27 mL | C1CCOC1 | C4H8O
solvent | water | 2.422 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 2-(1-(3-(2-(methylsulfonyl)phenyl)-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione | CS(=O)(=O)C1=C(C=CC=C1)C1=C(N=C2N(C1=O)C=CC=C2)C(C)N2C(C1=CC=CC=C1C2=O)=O | C25H19N3O5S
